US07932262B2
A solution of DEAD (404 mg, 2.32 mmole) in THF (0.5 mL) was added to a solution of 7-bromo-2-chloroquinazolin-8-ol (400 mg, 1.54 mmole), tert-butyl 4-hydroxypiperidine-1-carboxylate (621 mg, 3.09 mmole) and PPh3 (610 mg, 2.32 mmole) in THF (5.5 mL) at RT. After 1.5 hours, silica gel was added to the reaction which was evaporated to dryness and loaded onto a flash column. The product was eluted with 25% EtOAc/hexane to give tert-butyl 4-(7-bromo-2-chloroquinazolin-8-yloxy)piperidine-1-carboxylate in 80% yield (545 mg, 1.23 mmole).

reactant | DEAD | 2.32 mmole, 404 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 7-bromo-2-chloroquinazolin-8-ol | 1.54 mmole, 400 mg | BrC1=CC=C2C=NC(=NC2=C1O)Cl | C8H4BrClN2O
reactant | tert-butyl 4-hydroxypiperidine-1-carboxylate | 3.09 mmole, 621 mg | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | PPh3 | 2.32 mmole, 610 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 5.5 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(7-bromo-2-chloroquinazolin-8-yloxy)piperidine-1-carboxylate | 80% yield | BrC1=CC=C2C=NC(=NC2=C1OC1CCN(CC1)C(=O)OC(C)(C)C)Cl | C18H21BrClN3O3
